Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Invasive adenocarcinoma of mid-ascending colon
 
Major Surgical or Invasive Procedure:
Larposcopically assisted right colectomy
 
History of Present Illness:
Mr. ___ reports having heartburn and stools mixed with blood 
beginning about 1 month ago after a medication change in ___.  
He presented to PCP who sent him for EGD and colonoscopy.  EGD 
was unremarkable but colonoscopy revealed an infiltrative and 
ulcerated 2 cm mass of malignant appearance was found in the 
mid-ascending colon. Biopsy revealed low-grade invasie 
adenocarcinoma.  Patient was referred to Dr. ___ office 
in consultation for hemicolectomy.  
 
Past Medical History:
Hypertension, hyperlipidemia, Afib on coumadin, invasive 
adenocarcinoma of mid-ascending colon

 
Social History:
___
Family History:
No family history of colon cancer or heart disease.  
 
Physical Exam:
On Discharge: 
Vitals: 100.1   97.8   82   142/84   18   94-RA
GEN: NAD
HEENT: op clear, mmm
CV: rrr, s1/s2
PULM: inspiratory wheezes R>L
ABD: mild distension, s/nt; incisions without evidence of 
infection
EXT: warm/dry
 
Pertinent Results:
___ 06:55AM BLOOD WBC-11.3*# RBC-3.82* Hgb-10.8* Hct-32.1* 
MCV-84 MCH-28.3 MCHC-33.7 RDW-13.1 Plt ___
___ 09:20AM BLOOD WBC-9.3 RBC-3.96* Hgb-11.2* Hct-33.9* 
MCV-86 MCH-28.3 MCHC-33.0 RDW-13.0 Plt ___
___ 06:55AM BLOOD Glucose-90 UreaN-14 Creat-1.1 Na-141 
K-4.2 Cl-105 HCO___-26 AnGap-14
___ 06:05AM BLOOD Glucose-111* UreaN-12 Creat-0.8 Na-138 
K-4.2 Cl-104 HCO3-24 AnGap-14

___, Pathology:
Pending at time of discharge
 
Brief Hospital Course:
On ___, the patient underwent a laproscopic assisted right 
colectomy, which went well without complication (reader referred 
to the Operative Note for details). After a brief, uneventful 
stay in the PACU, the patient arrived on the floor NPO, on IV 
fluids, with a foley catheter, and IV dilaudid for pain control. 
 The patient was hemodynamically stable.
Neuro: The patient received IV dilaudid and toradol with good 
effect and adequate pain control.  When tolerating oral intake, 
the patient was transitioned to oral tylenol and oxycodone.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: Patient presented preoperatively with an upper 
respiratory tract infection.  Patient continued to have coarse 
crackles post operatively.  Vital signs were routinely 
monitored. Good pulmonary toilet, early ambulation and incentive 
spirrometry were encouraged throughout hospitalization.  Patient 
received albuterol nebulizer with good effect.  
GI/GU/FEN: Post-operatively, the patient was made NPO with IV 
fluids. On POD 1 patient's urine output decreaesd and was given 
500ml bolus.  Urine continued to lag and fell below 30ml over 4 
hours.  Patient was bolused 1000ml and urine output increased to 
30 and 35ml over the next 2 hours.  IVF were increased and 
adequate urine output continued.  Patient's IV was hep locked 
and urine output continued at adequate rate.  Diet was advanced 
when appropriate, which was well tolerated.  Patient's intake 
and output were closely monitored.  Electrolytes were routinely 
followed, and repleted when necessary.
ID: The patient's white blood count and fever curves were 
closely watched for signs of infection.  Incisions remained 
clean, dry and intact.   
Endocrine: The patient's blood sugar was monitored throughout 
his stay; insulin dosing was adjusted accordingly.
Hematology: The patient's complete blood count was examined 
routinely; no transfusions were required. Coumadin for a-fib was 
to be restarted upon discharge.
Prophylaxis: The patient received subcutaneous heparin and 
venodyne boots were used during this stay; was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.
 
Medications on Admission:
finasteride 5', olmesartan-hcthz 40-12.5', simvastain 20', 
terazosin 10', warfarin 5'
 
Discharge Medications:
1. acetaminophen 500 mg Tablet Sig: ___ Tablets PO TID (3 times 
a day) as needed for fever or pain.
Disp:*30 Tablet(s)* Refills:*1*
2. finasteride 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
4. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 hours) 
as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
5. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.
Disp:*30 Capsule(s)* Refills:*0*
6. warfarin 5 mg Tablet Sig: One (1) Tablet PO once a day.  
7. terazosin 10 mg Capsule Sig: One (1) Capsule PO once a day.  
8. olmesartan-hydrochlorothiazide 40-12.5 mg Tablet Sig: One (1) 
Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Invasive adenocarcinoma of mid-ascending colon.  
Postoperative hypovolemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please follow up with your PCP and ___ clinic regarding 
your coumadin level (your INR).

It was a pleasure to take care of you during your stay at ___. 

Please resume all regular home medications, including coumadin 
(warfarin).  Also, please take any new medications as 
prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
*Your steri-strips will fall off on their own.  Please remove 
any remaining strips ___ days after surgery.
 
Followup Instructions:
___